US04141903
5-Chloro-2-(2-hydroxy-3-tert-butyl-5-methylphenyl)-2H-benzotriazole
When in Example 1, the 2 nitro-2'-hydroxy-5'-methyl-azobenzene is replaced by an equivalent amount of 2-nitro-5-chloro-2'-hydroxy-3'-tert-butyl-5'-methylazobenzene, the above noted product is obtained.

reactant | nitro-2'-hydroxy-5'-methyl-azobenzene | [N+](=O)([O-])C=1C(=C(C=C(C1)C)N=NC1=CC=CC=C1)O | C13H11N3O3
reactant | 2-nitro-5-chloro-2'-hydroxy-3'-tert-butyl-5'-methylazobenzene | [N+](=O)([O-])C1=C(C=C(C=C1)Cl)N=NC1=C(C(=CC(=C1)C)C(C)(C)C)O | C17H18ClN3O3
product | 5-Chloro-2-(2-hydroxy-3-tert-butyl-5-methylphenyl)-2H-benzotriazole | ClC1=CC=2C(=NN(N2)C2=C(C(=CC(=C2)C)C(C)(C)C)O)C=C1 | C17H18ClN3O
